US07151105B2
Step 1: 1-(4-Bromo-2-ethyl-benzyl)-1H-[1,2,4]triazole
Triazole (275 mg, 3.99 mmol) dissolved in anhydrous DMF (15 mL) was treated with NaH (60%, 153 mg). After 5 min, 4-bromo-1-bromomethyl-2-ethyl-benzene was added. The reaction mixture was heated to 75° C. for 5 hours before it was cooled to room temperature. The mixture was diluted with Et2O and washed with H2O, brine, dried over MgSO4. The solvent was removed in vacuo to afford the desired product (580 mg, 55% yield). 1H NMR (300 MHz, CDCl3): δ 1.10 (t, J7.5 Hz, 3 H), 2.68–2.73 (m, 2 H), 5.46 (s, 2 H), 7.01–7.04 (m, 1 H), 7.38–7.46 (m, 2 H), 7.97–8.01 (m, 2 H).

reactant | Triazole | 3.99 mmol, 275 mg | N1N=NC=C1 | C2H3N3
reactant | NaH | 153 mg | [H-].[Na+]
reactant | 4-bromo-1-bromomethyl-2-ethyl-benzene | BrC1=CC(=C(C=C1)CBr)CC | C9H10Br2
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
product | 1-(4-Bromo-2-ethyl-benzyl)-1H-[1,2,4]triazole | 580 mg, 55% yield | BrC1=CC(=C(CN2N=CN=C2)C=C1)CC | C11H12BrN3
